### PR TITLE
Add Debut theorem

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
We add a new folder for the Lean code of the Debut theorem. 
There are two files in the folder:
- `Approximation.lean` contains some definitions and theorem that are auxiliary to the proof of the Debut theorem.
- `Basic.lean` contains the definition of debut, some API lemmas and the statement of the Debut theorem.

See [this Zulip message](https://leanprover.zulipchat.com/#narrow/channel/509433-Brownian-motion/topic/Second.20phase.20of.20the.20project/near/532610023).

Blueprint content in: #144

- [x] Uncomment `\leanok` and `\lean` commands from the blueprint once #144 gets merged.

### CODE REVIEW

File: BrownianMotion/Debut/Approximation.lean [hunk 1]
```diff
@@ -0,0 +1,335 @@
...
+  | prod {K C} (hA_subs : K ⊆ Set.Iic t) (hA : IsCompact K) (hM : MeasurableSet[f t] C) :
+    𝓚₀ f t (K ×ˢ C)
+
+@[simp]
+lemma empty_mem_𝓚₀ (f : Filtration T mΩ) (t : T) : ∅ ∈ 𝓚₀ f t := by
+  convert 𝓚₀.prod (Set.empty_subset _) isCompact_empty (@MeasurableSet.empty _ (f t))
+  exact Set.prod_empty.symm
+
+lemma mem_𝓚₀_iff (f : Filtration T mΩ) (t : T) (B : Set (T × Ω)) :
+    B ∈ 𝓚₀ f t ↔ ∃ K C, B = K ×ˢ C ∧ K ⊆ Set.Iic t ∧ IsCompact K ∧ MeasurableSet[f t] C := by
```
Comment (EtienneC30) [inline BrownianMotion/Debut/Approximation.lean:52]: This should be the definition I think, then you can easily prove that if `K` and `C` have the right shape then `K ×ˢ C` is in the set. It avoids using `inductive`, which I think makes things unnecessarily complicated.

Comment (EtienneC30) [reply BrownianMotion/Debut/Approximation.lean:52]: To be clear, what I mean is that I think you should define
```lean
𝓚₀ f t := {B | ∃ K C, B = K ×ˢ C ∧ K ⊆ Set.Iic t ∧ IsCompact K ∧ MeasurableSet[f t] C}
```

Comment (EtienneC30) [reply BrownianMotion/Debut/Approximation.lean:52]: In fact looking at what follows, wouldn't it be better to just include `𝓚₀` in the definition of `𝓚`? Or do you have a separate use of `𝓚₀`  that would justify it having its own definition?

Comment (LorenzoLuccioli) [reply BrownianMotion/Debut/Approximation.lean:52]: Regarding the presence of `𝓚₀` as a separate definition: some proofs use it separately, for example `measurableSet_snd_of_mem_𝓚₀` will be used to prove `measurableSet_snd_of_mem_𝓚`. Of course this is not strictly necessary, the first proof could just be integrated in the second one without giving a name to that specific class of sets, but I felt like separating the definitions would make them cleaner and more coincise. Also, I'm not sure if the longer proofs that I still have not adapted in the blueprint could somehow use that definition.

**Comment by LorenzoLuccioli** [comment]
awaiting-review
